US08022209B2
5-[4-(4-Methyl-piperazin-1-yl)-pyridin-2-yl]-thiophene-2-carbonitrile
A mixture of 1-[2-(5-bromo-thiophen-2-yl)-pyridin-4-yl]-4-methyl-piperazine (41 mg, 0.13 mmol) and copper(I) cyanide (55 mg, 0.62 mmol) was heated in DMF at 180° C. by microwave for 30 minutes. After cooling, EtOAc was added and the resulting mixture was passed through Celite®. The filtrate was washed with water and the organic layer was concentrated. The resulting residue was purified by preparative TLC to yield the title compound.

reactant | 1-[2-(5-bromo-thiophen-2-yl)-pyridin-4-yl]-4-methyl-piperazine | 0.13 mmol, 41 mg | BrC1=CC=C(S1)C1=NC=CC(=C1)N1CCN(CC1)C | C14H16BrN3S
reactant | copper(I) cyanide | 0.62 mmol, 55 mg | [Cu]C#N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-[4-(4-Methyl-piperazin-1-yl)-pyridin-2-yl]-thiophene-2-carbonitrile | CN1CCN(CC1)C1=CC(=NC=C1)C1=CC=C(S1)C#N | C15H16N4S
